US07884123B2
1.1 g (5.8 mmol) of copper(I) iodide, 0.69 cm3 (5.8 mmol) of trans-1,2-diaminocyclohexane, 4.4 g (34.6 mmol) of 2-thiophenecarboxamide and then 12.2 g (57.6 mmol) of tripotassium phosphate are successively added to a solution of 10.0 g (28.8 mmol) of ethyl 3-bromo-1-(1-ethoxyethyl)-1H-thieno[2,3-c]pyrazole-5-carboxylate in 167 cm3 of dioxane, stirred at a temperature in the region of 25° C., under argon. The reaction mixture is refluxed for 20 hours and is then cooled to a temperature in the region of 25° C. and filtered through Clarcel®. The solid is washed with twice 170 cm3 of ethyl acetate. The filtrate is extracted with three times 170 cm3 of saturated brine and the organic phase is then dried over sodium sulfate, filtered and then concentrated to dryness under reduced pressure (2.7 kPa) at a temperature in the region of 35° C. The residue is purified by chromatography on a column of about 300 g of silica gel (particle size 40-63 μm), eluting with a cyclohexane/ethyl acetate mixture (90/10 and then 85/15 by volume). The fractions containing the expected product are combined and concentrated to dryness under reduced pressure (2 kPa) at a temperature in the region of 40° C. 2.9 g of ethyl 1-(1-ethoxyethyl)-3-[(thiophene-2-carbonyl)amino]-1H-thieno[2,3-c]pyrazole-5-carboxylate are thus obtained in the form of a yellow solid. (Rf=0.18, thin-layer chromatography on silica gel, eluent: cyclohexane/ethyl acetate (80/20 by volume)).

reactant | trans-1,2-diaminocyclohexane | 5.8 mmol, 0.69 cm3 | N[C@H]1[C@@H](CCCC1)N | C6H14N2
reactant | 2-thiophenecarboxamide | 34.6 mmol, 4.4 g | S1C(=CC=C1)C(=O)N | C5H5NOS
reactant | tripotassium phosphate | 57.6 mmol, 12.2 g | P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
reactant | ethyl 3-bromo-1-(1-ethoxyethyl)-1H-thieno[2,3-c]pyrazole-5-carboxylate | 28.8 mmol, 10.0 g | BrC=1C2=C(N(N1)C(C)OCC)SC(=C2)C(=O)OCC | C12H15BrN2O3S
solvent | dioxane | 167 cm3 | O1CCOCC1 | C4H8O2
catalyst | copper(I) iodide | 5.8 mmol, 1.1 g | [Cu]I
product | ethyl 1-(1-ethoxyethyl)-3-[(thiophene-2-carbonyl)amino]-1H-thieno[2,3-c]pyrazole-5-carboxylate | 2.9 g | C(C)OC(C)N1N=C(C2=C1SC(=C2)C(=O)OCC)NC(=O)C=2SC=CC2 | C17H19N3O4S2
